US04374248
When 2-chloromethyl-4-methylthiazole [prepared by the reaction of thionyl chloride and 2-hydroxymethyl-4-methylthiazole, which itself is prepared according to the procedure of J. Chem. Soc., (Suppl. Issue No. 1), S106-111 (1966) or Acta Chem. Scand., 20, 2649 (1966)] is reacted with cysteamine hydrochloride and about two equivalents of a strong base such as sodium methoxide, and the resultant amine is treated with 3,4-dimethoxy-1,2,5-thiadiazole 1,1-dioxide, there is produced 3-methoxy-4-{2-[(4-methylthiazol-2-yl)methylthio]ethylamino}-1,2,5-thiadiazole 1,1-dioxide. When the latter compound is reacted with methylamine according to the general procedure of Example 31, there is produced 3-methylamino-4-{2-[(4-methylthiazol-2-yl)methylthio]ethylamino}-1,2,5-thiadiazole 1,1-dioxide.

reactant | 2-chloromethyl-4-methylthiazole | ClCC=1SC=C(N1)C | C5H6ClNS
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 2-hydroxymethyl-4-methylthiazole | OCC=1SC=C(N1)C | C5H7NOS
reactant | cysteamine hydrochloride | Cl.NCCS
reactant | sodium methoxide | C[O-].[Na+]
reactant | 3,4-dimethoxy-1,2,5-thiadiazole 1,1-dioxide | COC1=NS(N=C1OC)(=O)=O | C4H6N2O4S
product | 3-methoxy-4-{2-[(4-methylthiazol-2-yl)methylthio]ethylamino}-1,2,5-thiadiazole 1,1-dioxide | COC1=NS(N=C1NCCSCC=1SC=C(N1)C)(=O)=O | C10H14N4O3S3
